US08957212B2
To the solution dissolved 15.0 g of 2-ethylanthraquinone (63 mmol; produced by Wako Pure Chemical Industries, Ltd.) into 100 mL of dichloroethane, 11.3 g of N-bromosuccinimide (NBS) (63.5 mmol; produced by Wako Pure Chemical Industries, Ltd.) and 1.0 g of 2,2′-azobis(isobutyronitrile) (AIBN) (6.1 mmol; produced by Wako Pure Chemical Industries, Ltd.) were added, then, the solution was reacted by stirring for 2 hours at 60° C. After completing reaction, the reaction solution was condensed, and 120 mL of methanol was poured into the condensed residue, and after the resultant crystal was filtered, the resultant crystal was dried to obtain 18.0 g of 2-(1-bromo-1-ethyl)anthraquinone (yield: 90%) as pale yellow crystal. Measurement results of 1H-NMR are shown as the follows:

reactant | 2-ethylanthraquinone | 63 mmol, 15.0 g | C(C)C1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C16H12O2
reactant | dichloroethane | 100 mL | ClC(C)Cl | C2H4Cl2
reactant | N-bromosuccinimide | 63.5 mmol, 11.3 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(isobutyronitrile) | 6.1 mmol, 1.0 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | methanol | 120 mL | CO | CH4O
product | 2-(1-bromo-1-ethyl)anthraquinone | 18.0 g, yield: 90% | BrC(C)C1=CC=2C(C3=CC=CC=C3C(C2C=C1)=O)=O | C16H11BrO2
